US06022868
(Z)-3-(3-Methyl-5-isoxazolyl)methylenepiperidine hydrochloride
To a solution of (Z)-3-(3-methyl-5-isoxazolyl)methylene-1-methylpiperidine (1.3 g, 6.5 mmol) in toluene (50 ml) was added 1-chloroethylchloroformate (1.3 g, 10 mmol). The reaction mixture was heated at reflux for 5 h. The reaction mixture was evaporated and methanol (50 ml) was added. The reaction mixture was heated at reflux for 1 h and evaporated. The crude compound was purified by column chromatography (eluent: methylene chloride/methanol/ammonium hydroxide (25%): 8/2/0.5). The free base was crystallized as the hydrochloride from ethyl acetate giving the title compound in 350 mg yield. M.p. 232-235° C. (Compound 5).

reactant | (Z)-3-(3-methyl-5-isoxazolyl)methylene-1-methylpiperidine | 6.5 mmol, 1.3 g | CC1=NOC(=C1)\C=C\1/CN(CCC1)C | C11H16N2O
reactant | 1-chloroethylchloroformate | 10 mmol, 1.3 g | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-3-(3-Methyl-5-isoxazolyl)methylenepiperidine hydrochloride | Cl.CC1=NOC(=C1)\C=C\1/CNCCC1 | InChI=1S/C10H14N2O.ClH/c1-8-5-10(13-12-8)6-9-3-2-4-11-7-9;/h5-6,11H,2-4,7H2,1H3;1H/b9-6-;
